US05665696
1-(2-Methyl-2-propenyl)-3-(1,1-dimethylethyl)cyclohexane-1-carboxaldehyde (mixture of diastereomers)
Similar to Example 6, 17.0 g of 3-(1,1-dimethylethyl)cyclohexane carboxaldehyde (prepared by the method of E. Heilweil and J. Virgilio, Organic Preparations and Procedures, 14 (1-2), 9 (1982) at a purity of 87% (0.088 mole) in 20 ml of DMF, 11.9 g of potassium t-butoxide (0.10 mole) in 60 ml of DMF, and 12.0 g of methallyl chloride (0.13 mole) in 10 ml of DMF were reacted in the usual manner. The resulting mixture of O- and C-alkylates, 21.6 g, was heated at 155° C. for 1 hour. The crude aldehyde so obtained, 19 g, was distilled to afford 8.7 g of purified product (45% yield). BP 57° C./0.1 mmHg; 1H-NMR (300 MHz), δ 0.85 (9H, s), 0.97-1.45 (3H, m), 1.66 (3H, s), 1.68-1.74 (3H, m), 2.03-2.40 (5H, m), 4.66 (1H, s), 4.84 (1H, s), 9.50 (1H, s); 13C-NMR (75 MHz), δ 23.26, 24.63, 26.60, 27.34, 31.40, 32.46, 33.79, 44.31, 47.74, 50.56, 115.33, 140.77, 207.33; IR (Neat), 2970, 2690, 1720, 1635, 1450, 1360, 895 cm-1 ; MS (m/e), 222 (M+), 207, 166 (Base), 137, 123, 109, 95, 81, 57, 41.

reactant | 3-(1,1-dimethylethyl)cyclohexane carboxaldehyde | 17.0 g | CC(C)(C)C1CC(CCC1)C=O | C11H20O
reactant | potassium t-butoxide | 0.10 mole, 11.9 g | CC(C)([O-])C.[K+]
reactant | methallyl chloride | 0.13 mole, 12.0 g | C(C(C)=C)Cl | C4H7Cl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-(2-Methyl-2-propenyl)-3-(1,1-dimethylethyl)cyclohexane-1-carboxaldehyde | 8.7 g, 45% yield | CC(CC1(CC(CCC1)C(C)(C)C)C=O)=C | C15H26O
